US06384072B1
To a solution of 1-aminomethyl-5-(tert-butyldiphenyl-silyloxy)-1,2,3,4-tetrahydronaphthalen-1-ol (34.5 g) in 20% AcOH (700 ml) was added NaNO2 (7.18 g) in water (60 ml) at 5° C. The mixture was stirred at the same temperature for 2.5 hours. After addition of CH2Cl2 (70 ml), the mixture was stirred for 30 minutes. The reaction mixture was extracted with EtOAc. The organic layer was washed with water and then brine. It was dried over magnesium sulfate and evaporated. The residue was purified by silica gel column chromatography (hexane-EtOAc 10:1) to give 1-(tert-butyldiphenylsilyloxy)-6,7,8, 9-tetrahydro-5H-benzocyclohepten-6-one (12.52 g).

reactant | 1-aminomethyl-5-(tert-butyldiphenyl-silyloxy)-1,2,3,4-tetrahydronaphthalen-1-ol | 34.5 g | NCC1(CCCC2=C(C=CC=C12)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)O | C27H33NO2Si
reactant | NaNO2 | 7.18 g | N(=O)[O-].[Na+]
reactant | CH2Cl2 | 70 ml | C(Cl)Cl | CH2Cl2
solvent | AcOH | 700 ml | CC(=O)O | C2H4O2
solvent | water | 60 ml | O | H2O
product | 1-(tert-butyldiphenylsilyloxy)-6,7,8, 9-tetrahydro-5H-benzocyclohepten-6-one | 12.52 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=CC=CC2=C1CCCC(C2)=O | C27H30O2Si
